Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right heel ulcer 
 
Major Surgical or Invasive Procedure:
Right ulcer Excision
Exostectomy of right foot

 
History of Present Illness:
The pt was admitted for exostectomy to right heel with ulcer. Pt 
had a previous infection which had been I&D'd back in ___. Pt's course had been complicated with infection and a 
prominent plantar heel bone that was causing continous pressure 
to the area of ulceration. A decision was made to admit pt for 
IV antibiotics and rehabilitation following the ulcer excision 
and exostectomy.

 
Past Medical History:
Type 2 Diabetes  
Chronic Renal Insufficiency, baseline 2.3  
HTN  
Hyperlipidemia  
CVA in ___  
R Charcot Foot  
Peripheral Neuropathy  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
AVSS
RRR
CTAB
+BS, NT,ND
Right foot with plantar ulcer, undermined. No erythema. No 
purulent drainage.

 
Pertinent Results:
___ 06:05AM BLOOD WBC-7.8 RBC-3.74* Hgb-12.5* Hct-36.6* 
MCV-98 MCH-33.3* MCHC-34.1 RDW-12.9 Plt ___
___ 07:15AM BLOOD WBC-8.8 RBC-3.86* Hgb-12.5* Hct-37.5* 
MCV-97 MCH-32.3* MCHC-33.3 RDW-13.1 Plt ___
___ 06:30AM BLOOD WBC-11.3* RBC-3.88* Hgb-12.8* Hct-37.8* 
MCV-98 MCH-32.9* MCHC-33.7 RDW-13.0 Plt ___
___ 06:15AM BLOOD WBC-11.1* RBC-3.83* Hgb-12.9* Hct-36.8* 
MCV-96 MCH-33.8* MCHC-35.1* RDW-13.1 Plt ___
___ 11:58AM BLOOD WBC-13.6*# RBC-4.09* Hgb-13.9* Hct-39.7* 
MCV-97 MCH-34.1* MCHC-35.1* RDW-13.1 Plt ___
___ 06:05AM BLOOD Plt ___
___ 07:15AM BLOOD Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:15AM BLOOD Plt ___
___ 11:58AM BLOOD Plt ___
___ 11:58AM BLOOD ESR-59*
___ 06:05AM BLOOD Glucose-92 UreaN-22* Creat-2.8* Na-139 
K-3.9 Cl-106 HCO3-22 AnGap-15
___ 07:15AM BLOOD Glucose-87 UreaN-23* Creat-3.1* Na-135 
K-3.7 Cl-103 HCO3-19* AnGap-17
___ 06:30AM BLOOD Glucose-84 UreaN-26* Creat-3.2* Na-137 
K-3.6 Cl-106 HCO3-19* AnGap-16
___ 06:15AM BLOOD Glucose-73 UreaN-28* Creat-3.0* Na-137 
K-3.2* Cl-105 HCO3-19* AnGap-16
___ 11:58AM BLOOD Glucose-114* UreaN-24* Creat-2.9* Na-137 
K-3.6 Cl-106 HCO3-19* AnGap-16
___ 06:05AM BLOOD Calcium-8.6 Phos-4.5 Mg-2.1
___ 07:15AM BLOOD Calcium-9.0 Phos-4.4 Mg-2.3
___ 06:30AM BLOOD Calcium-8.3* Phos-4.4 Mg-1.8
___ 06:15AM BLOOD Calcium-8.0* Phos-3.9 Mg-1.7
___ 03:00PM BLOOD Cholest-164
___ 11:58AM BLOOD Albumin-3.2* Calcium-8.4 Phos-3.9 Mg-1.8
___ 03:00PM BLOOD %HbA1c-4.9
___ 03:00PM BLOOD Triglyc-95 HDL-87 CHOL/HD-1.9 LDLcalc-58
___ 03:00PM BLOOD PTH-51
___ 11:58AM BLOOD CRP-13.7*

 
Brief Hospital Course:
The pt was admitted SDA s/p ulcer excision and exostectomy. Pt 
was being follwed at OSH clinic. The surgery was perform without 
complications. A JP drain was placed within the 
incisionFollowing the exostectomy, Pt's incision site remain 
well coapted. Dressings were cjahes daily with betadine. Pt had 
been drowing MRSA and resistant E coli. There were sensitive to 
vancomycin and zosyn. Culture results from this admission showed 
MRSA. Pt remin afebrile through hospital course. On HD3 JP drain 
pulled. HD4 Site of drain was closed with one suture.  Area at 
middle of incision had a gap, one suture was removed and 
replaced with two sutures. Pt was discharged with ___ services 
following an uneventful course at the hospital.
 
Medications on Admission:
Aggrenox ___ mg',Metoprolol XL 100 mg',Amlodipine 5 mg', 
Lisinopril 20 mg',Simvastatin 40 mg',Benicar 40 mg',folic acid 1 
mg',potassium 20 mEq daily,Prandin 0.5 mg ac, rolaids for low 
Calcium 
 
Discharge Medications:
1. Repaglinide 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
2. Olmesartan 20 mg Tablet Sig: Two (2) Tablet PO daily ().  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
6. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed.
Disp:*21 Tablet(s)* Refills:*0*
8. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Linezolid ___ mg Tablet Sig: One (1) Tablet PO twice a day 
for 3 weeks.
Disp:*42 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Right ulcer Excision
Exostectomy of right foot

 
Discharge Condition:
Good

 
Discharge Instructions:
Please resume all your medications. A script for antibiotics has 
been dispensed. You will take this for 3 weeks. You will follow 
up with Dr. ___ in 1 week. He will deteremine if you need 
to continue antibiotics for more than 3 weeks. Please ensure to 
remain Non weightbearing in a surgical on your right foot. 

Please visit the nearest ED if you notice fevers, chills, night 
sweats, nausea, vomitting, redness, swelling, pus draining from 
your wound
 
Followup Instructions:
___